US06770646B2
a) 2-(3-Methyl-1-oxobutyl)thiophene-3-carboxylic acid
Lithium diisopropylamide (86 mmol) in tetrahydrofuran (30 ml) was added at 0° C. to a solution of thiophene-3-carboxylic acid (5 g) in tetrahydrofuran (50 ml). Isovaleraldehyde (4.6 ml) was added as a solution in tetrahydrofuran (30 ml) at 0° C. The reaction mixture was stirred at 25° C. for 3 hours and then water (100 ml) was added and the tetrahydrofuran was removed in vacuo. The aqueous residue obtained was extracted with ethyl acetate and the aqueous phase added to potassium permanganate (12.3 g) and warmed to 60° C. for 1.5 hours. The mixture was filtered, allowed to cool to ambient temperature, and then acidified with dilute hydrochloric acid. The acidic aqueous mixture was extracted with ethyl acetate and the organic extract dried and evaporated to give the sub-title compound as an oil (5.3 g).

reactant | Lithium diisopropylamide | 86 mmol | C(C)(C)[N-]C(C)C.[Li+]
reactant | thiophene-3-carboxylic acid | 5 g | S1C=C(C=C1)C(=O)O | C5H4O2S
reactant | Isovaleraldehyde | 4.6 ml | C(CC(C)C)=O | C5H10O
reactant | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2-(3-Methyl-1-oxobutyl)thiophene-3-carboxylic acid | 5.3 g | CC(CC(=O)C=1SC=CC1C(=O)O)C | C10H12O3S
